US05929085
(b) 1-Methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride
To a solution of 1-methyl-7-nitro-3,4-dihydroisoquinoline (3.97 g, 20.9 mmol) in methanol (80 ml) was added sodium borohydride (0.87 g, 23.0 mmol) portionwise. The mixture was stirred for 30 min., acidified with 6N HCl, the solvent was evaporated and the solid was stirred in isopropanol, collected and washed with ether: 5.33 g (>100%); MS (M+H)+ 193.

reactant | 1-methyl-7-nitro-3,4-dihydroisoquinoline | 20.9 mmol, 3.97 g | CC1=NCCC2=CC=C(C=C12)[N+](=O)[O-] | C10H10N2O2
reactant | sodium borohydride | 23.0 mmol, 0.87 g | [BH4-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 1-Methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.CC1NCCC2=CC=C(C=C12)[N+](=O)[O-] | InChI=1S/C10H12N2O2.ClH/c1-7-10-6-9(12(13)14)3-2-8(10)4-5-11-7;/h2-3,6-7,11H,4-5H2,1H3;1H
